US04927947
Ethyl 5-bromothiophene-2carboxylate
To 1.092 g (5.7157 mmol) of 5-bromothiophene-2-carboxaldehyde was added sequentially, 1.507 g (30.75 mmol) sodium cyanide, 60 ml ethanol, 602.5 mg (10.04 mmol) of acetic acid and 10.62 g (122.16 mmol) of manganese dioxide. This mixture was stirred at room temperature for 24 hours, then filtered through celite and the residue washed several times with ether. The combined filtrates were concentrated, then the residue taken up in water and extracted with 3×75 ml ether. Combined ether extracts were washed with saturated NaHCO3, saturated NaCl, dried (MgSO4), concentrated in vacuo and kugelrohr distilled (70° C.; 0.1 mm) to give the captioned compound as a pale yellow oil. PMR (CDCl3); δ1.3 (3H, t, J~7 Hz), 4.35 (2H, t, J~7 Hz), 7.12 (1H, d, J~4 Hz), 7.6 (1H, d, J~4 Hz).

reactant | 5-bromothiophene-2-carboxaldehyde | 5.7157 mmol, 1.092 g | BrC1=CC=C(S1)C=O | C5H3BrOS
reactant | sodium cyanide | 30.75 mmol, 1.507 g | [C-]#N.[Na+]
reactant | acetic acid | 10.04 mmol, 602.5 mg | C(C)(=O)O | C2H4O2
catalyst | manganese dioxide | 122.16 mmol, 10.62 g | [O-2].[O-2].[Mn+4]
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | Ethyl 5-bromothiophene-2carboxylate | BrC1=CC=C(S1)C(=O)OCC | C7H7BrO2S
